US08076488B2
Preparation of N-methyl-4-[4-({[(2,2,4,4-tetrafluoro-4H-1,3-benzodioxin-6-yl)amino]carbonyl}-amino)phenoxy]pyridine-2-carboxamide
To a slurry of 4-(2-(N-methylcarbamoyl)-4-pyridyloxy)aniline (143 mg, 0.59 mmol) in DCM (1 mL) at 0° C. was added dropwise a solution of 2,2,4,4-tetrafluoro-6-isocyanato-1,3-benzodioxene (150 mg, 0.60 mmol) in DCM (1 mL). The reaction mixture was stirred at room temperature for 12 h. The resulting precipitate was filtered and washed with DCM to afford the desired product (125 mg, 41%) as a white solid.

reactant | 4-(2-(N-methylcarbamoyl)-4-pyridyloxy)aniline | 0.59 mmol, 143 mg | CNC(=O)C1=NC=CC(=C1)OC1=CC=C(N)C=C1 | C13H13N3O2
reactant | 2,2,4,4-tetrafluoro-6-isocyanato-1,3-benzodioxene | 0.60 mmol, 150 mg | C1=CC2=C(C=C1N=C=O)C(OC(O2)(F)F)(F)F | C9H3F4NO3
solvent | DCM | 1 mL | C(Cl)Cl | CH2Cl2
solvent | DCM | 1 mL | C(Cl)Cl | CH2Cl2
product | N-methyl-4-[4-({[(2,2,4,4-tetrafluoro-4H-1,3-benzodioxin-6-yl)amino]carbonyl}-amino)phenoxy]pyridine-2-carboxamide | 125 mg, 41% | CNC(=O)C1=NC=CC(=C1)OC1=CC=C(C=C1)NC(=O)NC1=CC2=C(OC(OC2(F)F)(F)F)C=C1 | C22H16F4N4O5
